US07977358B2
B] 1-(2-Methoxy-5-trifluoromethyl-phenyl)-3,5-dimethyl-1H-pyrazole-4-carboxylic acid ethyl ester
In analogy to the procedure described in Example 38A], (2-methoxy-5-trifluoromethyl-phenyl)-hydrazine and ethyl diacetoacetate gave, after flash column chromatography (CH2Cl2 to CH2Cl2:MeOH 99:1), the title compound in 58% yield as a light green solid. MS: 343.1 (MH+).

reactant | (2-methoxy-5-trifluoromethyl-phenyl)-hydrazine | COC1=C(C=C(C=C1)C(F)(F)F)NN | C8H9F3N2O
reactant | ethyl diacetoacetate | CCOC(=O)C(C(=O)C)C(=O)C | C8H12O4
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 1-(2-Methoxy-5-trifluoromethyl-phenyl)-3,5-dimethyl-1H-pyrazole-4-carboxylic acid ethyl ester | 58% yield | C(C)OC(=O)C=1C(=NN(C1C)C1=C(C=CC(=C1)C(F)(F)F)OC)C | C16H17F3N2O3
